US07087601B2
A mixture of 4-fluoro-3-nitrobenzoic acid (2.1 g, 11.3 mmol) and thionyl chloride (20 mL) was refluxed for 3 h and then cooled to rt. The excess thionyl chloride was removed and the residue dissolved in 10 mL of THF was added to a cooled (0° C.) solution of 2-aminophenol (1.24 g, 11.3 mmol) and diisopropylethylamine (2.4 mL, 13.6 mmol) in anhydrous THF (20 mL). The resulting mixture was refluxed for 4 h and then cooled to rt. The solvent was removed and p-toluenesulfonic acid (8.63 g, 45.4 mmol) and toluene (50 mL) were added to afford a dark mixture that was refluxed overnight. The solvent was removed and the crude was purified by flash chromatography on silica gel eluting with hexanes:CH2Cl2 (1:5) to afford 2-(4-fluoro-3-nitrophenyl)-1,3-benzoxazole as a colorless solid.

reactant | 4-fluoro-3-nitrobenzoic acid | 11.3 mmol, 2.1 g | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-aminophenol | 11.3 mmol, 1.24 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | diisopropylethylamine | 13.6 mmol, 2.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-toluenesulfonic acid | 45.4 mmol, 8.63 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-fluoro-3-nitrophenyl)-1,3-benzoxazole | FC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)[N+](=O)[O-] | C13H7FN2O3
